US07348337B2
Preparation of 4-[1-Phenyl-1-(5-tert-butyl-1,3,4-oxadiazol-2-yl)-methylene]-piperidine-1-carboxylic acid tert-butyl ester:
To a solution of 4-(1-phenyl-1-hydrazinocarbonyl-methylene)piperidine-1-carboxylic acid tert-butyl ester (0.150 g, 0.45 mmol) and iPr2NEt (0.545 mL, 3.13 mmol) in CH3CN (5 mL) was added trimethylacetic anhydride (0.116 mg, 0.57 mmol) and the mixture was allowed to stir at room temperature for 1 h. To this mixture was then added PPh3 (0.488 g, 1.86 mmol), followed by hexachloroethane (0.247 g, 1.04 mmol). The mixture was allowed to stir for 1 h and then it was worked up as in Method A above and the crude product purified by flash chromatography (SiO2/EtOAc-hexane, 1:4) to give the title compound (0.180 g, 100%) as a colorless solid:

reactant | 4-(1-phenyl-1-hydrazinocarbonyl-methylene)piperidine-1-carboxylic acid tert-butyl ester | 0.45 mmol, 0.150 g | C(C)(C)(C)OC(=O)N1CCC(CC1)=C(C(=O)NN)C1=CC=CC=C1 | C18H25N3O3
reactant | iPr2NEt | 3.13 mmol, 0.545 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | trimethylacetic anhydride | 0.57 mmol, 0.116 mg | CC(C(=O)OC(C(C)(C)C)=O)(C)C | C10H18O3
reactant | PPh3 | 1.86 mmol, 0.488 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | hexachloroethane | 1.04 mmol, 0.247 g | ClC(C(Cl)(Cl)Cl)(Cl)Cl | C2Cl6
solvent | CH3CN | 5 mL | CC#N | C2H3N
product | 4-[1-Phenyl-1-(5-tert-butyl-1,3,4-oxadiazol-2-yl)-methylene]-piperidine-1-carboxylic acid tert-butyl ester | 0.180 g, 100% | C(C)(C)(C)OC(=O)N1CCC(CC1)=C(C=1OC(=NN1)C(C)(C)C)C1=CC=CC=C1 | C23H31N3O3
